US05057505
2.5 g (5.96 mmol) of 1-(benzimidazol-2-ylamino)methane-1,1-diphosphonic acid tetraethyl ester are dissolved in 25 ml of 1N hydrochloric acid and heated at 100°-110° for 26 hours. In the course of the reaction, the product separates out in the form of a fine white precipitate. It is filtered while hot and washed with water and then with methanol. 0.23 g (13% of the theoretical yield) of 1-(benzimidazol-2-ylamino)methane-1,1-diphosphonic acid of m.p. 265° (decomposition) is obtained.

reactant | 1-(benzimidazol-2-ylamino)methane-1,1-diphosphonic acid tetraethyl ester | 5.96 mmol, 2.5 g | C(C)OP(OCC)(=O)C(P(OCC)(=O)OCC)NC=1NC2=C(N1)C=CC=C2 | C16H27N3O6P2
solvent | hydrochloric acid | 1N, 25 ml | Cl | ClH
product | 1-(benzimidazol-2-ylamino)methane-1,1-diphosphonic acid | N1=C(NC2=C1C=CC=C2)NC(P(O)(=O)O)P(O)(=O)O | C8H11N3O6P2
